US07514441B2
5-Amino-1-(1-methyl-2-oxo-2-phenyl-ethyl)-1H-pyrazole-4-carboxylic acid ethyl ester (1):
5-Amino-1H-pyrazole-4-carboxylic acid ethyl ester (7.35 g, 47.3 mmol) was dissolved in 160 mL of DMF. Na2CO3 (5.02 g, 47.3 mmol) was added followed by 2-bromopropiophenone (7.2 mL, 47.3 mmol). The reaction stirred at room temperature for 2 days. The solution was diluted with AcOEt and the organic layer was washed with sat. NaHCO3, brine, dried (MgSO4), and concentrated. Flash chromatography (20-45% AcOEt/hexane) gave the desired product (1.58 g, 12% yield). 1H NMR (400 MHz, CDCl3) δ 1.3 (t, J=7.0 Hz, 3H), 1.7 (d, J=7.4 Hz, 3H), 4.2 (q, J=7.0 Hz, 2H), 5.4 (bs, 2H), 5.9 (q, J=7.0 Hz, 1H), 7.41-7.59 (m, 3H), 7.60 (s, 1H), 8.0 (d, J=8.0 Hz, 2H).

reactant | 5-Amino-1H-pyrazole-4-carboxylic acid ethyl ester | 47.3 mmol, 7.35 g | C(C)OC(=O)C=1C=NNC1N | C6H9N3O2
reactant | Na2CO3 | 47.3 mmol, 5.02 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-bromopropiophenone | 47.3 mmol, 7.2 mL | BrC(C(=O)C1=CC=CC=C1)C | C9H9BrO
reactant | AcOEt hexane | CCOC(=O)C.CCCCCC
solvent | DMF | 160 mL | CN(C)C=O | C3H7NO
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 5-Amino-1-(1-methyl-2-oxo-2-phenyl-ethyl)-1H-pyrazole-4-carboxylic acid ethyl ester | 1.58 g, 12% yield | C(C)OC(=O)C=1C=NN(C1N)C(C(C1=CC=CC=C1)=O)C | C15H17N3O3
